Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Atypical chest pain
 
Major Surgical or Invasive Procedure:
Stess Echo

 
History of Present Illness:
___ y/o woman with intermittent chest pain past several months. 
Pain is located on left posterior shoulder and radiates down arm 
to fingers where it turns into "pins-n-needles" symptom. No 
SOB/N/V. Patient does endorse some minimal diaphoresis and gerd 
like symptoms accompanying it. Pain has been controlled with 
tylenol #3. 
 
Past Medical History:
HTN  
Asthma  
Diverticulitis several years ago  
R hip replacement in ___  

 
Social History:
___
Family History:
Mother: ___, HTN  
Father: ___ CA  
Brother: CA?  
Brother: ___  

 
Physical ___:
Vtals: T: 97.6 BP: 167/88 P: 83 R: 20 O2: 99% 2L  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

 
Pertinent Results:
___ 03:20PM BLOOD WBC-6.2 RBC-4.51 Hgb-13.1 Hct-38.6 MCV-86 
MCH-29.1 MCHC-33.9 RDW-15.4 Plt ___
___ 07:15AM BLOOD WBC-6.0 RBC-4.91 Hgb-13.8 Hct-41.7 MCV-85 
MCH-28.1 MCHC-33.0 RDW-15.1 Plt ___
___ 07:50AM BLOOD WBC-5.2 RBC-4.67 Hgb-13.4 Hct-39.4 MCV-84 
MCH-28.7 MCHC-34.1 RDW-15.2 Plt ___
___ 03:20PM BLOOD Glucose-95 UreaN-21* Creat-0.8 Na-139 
K-3.5 Cl-100 HCO3-30 AnGap-13
___ 09:10PM BLOOD Glucose-120* UreaN-17 Creat-0.9 Na-137 
K-3.3 Cl-99 HCO3-31 AnGap-10
___ 07:15AM BLOOD Glucose-100 UreaN-15 Creat-0.8 Na-138 
K-4.4 Cl-98 HCO3-35* AnGap-9
___ 03:20PM BLOOD cTropnT-<0.01
___ 09:10PM BLOOD CK-MB-3 cTropnT-<0.01
___ 07:15AM BLOOD CK-MB-4 cTropnT-<0.01
.
___ ___ F  ___  ___ 
 
Cardiology Report Stress Study Date of ___   
 
  
EXERCISE RESULTS 

 
  
RESTING DATA 
EKG:  SINUS WITH AEA, LBBB   
HEART RATE:  68 BLOOD PRESSURE:  146/86 
  
PROTOCOL MODIFIED ___ - TREAD___ 
STAGE TIME SPEED ELEVATION HEART BLOOD RPP 
  (MIN) (MPH) (%) RATE PRESSURE   
0 ___ 1.0 8 100 176/88 ___ 
1 ___ 1.7 10 114 178/92 ___ 2.5 12 126 184/98 ___ 
  
TOTAL EXERCISE TIME:  9 % MAX HRT RATE ACHIEVED:  83 
 
SYMPTOMS: ATYPICAL PEAK INTENSITY: ___ 
 
  
INTERPRETATION: ___ yo woman was referred to evaluate an atypical 

chest discomfort. The patient completed 9 minutes of a Gervino 
protocol 
representing a fair exercise tolerance for her age; ~ ___ METS. 
The 
exercise test was stopped at the patient's request secondary to 
fatigue. 
During exercise, the patient reported a non-progressive, 
isolated upper 
left-sided chest discomfort; ___. The area of discomfort was 
reportedly 
tender to palpation. This discomfort resolved with rest and was 
absent 
2.5 minutes post-exercise. In the presence of the LBBB, the ST 
segments 
are uninterpretable for ischemia. The rhythm was sinus with 
frequent 
isolated APDs and occasional atrial couplets and atrial 
triplets. 
Resting mild systolic hypertension with normal blood pressure 
response 
to exercise. The heart rate response to exercise was mildly 
blunted. 
  
IMPRESSION: Fair exercise tolerance. No anginal symptoms with 
uninterpretable ECG to achieved workload. Resting mild systolic 
hypertension with appropriate blood pressure response to 
exercise. 
Suboptimal study - target heart rate not achieved. 
 
SIGNED:  ___ 
 

 
Brief Hospital Course:
___ ___ with several month history of left sided arm and chest 
wall pain in the setting of LBBB presenting for ___.  
.  
.  
# Chest Pain:The patient's symptoms were not typically anginal 
in nature to suggest ACS. However she does have several cardiac 
risk factors and a LBBB, so  physicians could  not r/oMI with 
EKG alone. Trop. results were negative x3. Stress Echo revealed 
new regional dysfunction with hypokinesis of the inferior and 
inferolateral walls consistent with single vessel disease in the 
PDA distribution. A cardiology consult was obtained and they 
felt she could be managed medically. Patient was already on an 
aspirin, and a statin. Given history to suggest asthma B-blocker 
was contraindicated. She was discharged on 120 mg extended 
release diltiazem with instructions to follow up in cardiology 
and with her PCP. 
.
# Supraventricular tachycardia: The patient had multiple runs of 
SVT that was likley MAT in the setting of severe obstructive 
lung disease and chronic theophylline use. Cardiology 
reccomended that we discontinue her theophylline. We spoke with 
her pulmonologist who agreed this would be the best course of 
action for her. She was discharged with instructions to 
discontinue use of theophylline and follow up with her 
pulmonologist and cardiology.

 
Medications on Admission:
Tylenol ___ Q4h PRN pain  
Albuterol Sulfate 2 puffs q4-6h PRN SOB  
Fluticasone 50 mcg spray/suspension 2 whiffs PRN allergies  
Adviar 500/50 1 INH BID  
HCTZ 50mg One PO daily  
Singulari 10mg tablet One PO QD  
omeprazole 20mg 1 PO QD  
simvastatin 20mg 1 PO QD  
theophylline 200mg sustained release one PO TID  
spiriva 18 mcg w/ inhalation  
ASA 81mg  
Calcium sig unknown  
Cod liver oil Sig unk  
Multivitamin  

 
Discharge Medications:
1. acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q4H (every 
4 hours) as needed for pain.  
2. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation Q6H (every 6 hours) as needed for SOB 
wheeze.  
3. fluticasone-salmeterol 500-50 mcg/dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
4. fluticasone 50 mcg/Actuation Spray, Suspension Sig: ___  
Nasal once a day as needed for allergy symptoms.  
5. hydrochlorothiazide 50 mg Tablet Sig: One (1) Tablet PO once 
a day.  
6. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
7. simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.  
8. tiotropium bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
9. aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
10. multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. diltiazem HCl 120 mg Tablet Sustained Release 24 hr Sig: One 
(1) Tablet Sustained Release 24 hr PO once a day.
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*2*
12. nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1)  
Sublingual every 5 min as needed for chest pain: take one at 
onset of chest pain. ___ repeat every 5 min x3 with continued 
chest pain. Call PCP if chest pain persists.
Disp:*30 tabs* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Coronary Artery Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ because you had back and arm pain 
that was worrisome for heart disease. A strees test found that 
you have coronary artery disease. You were started on a new 
blood pressure medication and tolerated this well. You should 
keep all of you follow up appointments as listed below. 
.
While you were here we made the following changes to your 
medications:
.
We STARTED you on Diltiazem 120mg once a day
.
We STOPPED ___ theophylline
.
We STARTED nitroglycerine to take when you have chest pain
.
YOU NEED TO STOP SMOKING. IT WILL KILL YOU.
 
Followup Instructions:
___